US07834022B2
Step 1. 6-bromo-2-oxabicyclo[2.2.1]heptan-3-one
Bromotrimethysilane (3.1 mL, 0.023 mol) was added dropwise to a solution of dimethyl sulfoxide (1.6 mL, 0.023 mol) in chloroform (38.0 mL) in a round-bottom flask at 0° C. The resulting mixture was stirred at 0° C. for 2 hours. To the reaction mixture was added dropwise a solution of cyclopent-3-ene-1-carboxylic acid (2.00 g, 0.0178 mol) in chloroform (12 mL) over a period of 15 minutes and the reaction mixture was stirred at 0° C. for 10 minutes. N,N-diisopropylethylamine (4.0 mL, 0.023 mol) was then added and the resulting mixture was stirred at 0° C. After 10 minutes, the mixture was heated to reflux for 16 hours. The reaction mixture was diluted with chloroform, washed with water, brine, dried (MgSO4), and stripped in vacuo. The residue was purified by chromatography on silica gel using 30% EtOAc/hexanes as eluent to give the product. 1H NMR (400 MHz, CDCl3): δ 4.88 (brs, 1H), 4.34 (m, 1H), 2.90 (m, 1H), 2.66 (m, 1H), 2.31 (m, 1H), 1.93 (m, 1H), 1.83 (m, 1H).

reactant | Bromotrimethysilane | 0.023 mol, 3.1 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | dimethyl sulfoxide | 0.023 mol, 1.6 mL | CS(=O)C | C2H6OS
reactant | cyclopent-3-ene-1-carboxylic acid | 0.0178 mol, 2.00 g | C1(CC=CC1)C(=O)O | C6H8O2
reactant | N,N-diisopropylethylamine | 0.023 mol, 4.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 38.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 12 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-bromo-2-oxabicyclo[2.2.1]heptan-3-one | BrC1CC2C(OC1C2)=O | C6H7BrO2
